US06251919B1
(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-[1-(3-methyl-butyl)-piperidin-4-yl]-amine
The preparation of (4-Benzyloxy-phenyl)-(3-methvl-but-2-enyl)-piperidin-4-yl-amine, (Ic): 4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (5.0 g, 11.1 mmol) was dissolved in CH2Cl2 (20 mL) and treated with TFA (20 mL). The reaction was stirred for ten minutes, then concentrated in vacuo. The residue was redissolved in EtOAc (400 mL), then washed with saturated bicarbonate solution (2×400 mL) and brine (1×400 mL), dried over Na2SO4, and concentrated in vacuo to give 3.9 g (99%) of the desired product as a pale oil.

reactant | (4-Benzyloxy-phenyl)-(3-methvl-but-2-enyl)-piperidin-4-yl-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCNCC1)CC=C(C)C | C23H30N2O
reactant | 4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 11.1 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC=C(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H38N2O3
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-[1-(3-methyl-butyl)-piperidin-4-yl]-amine | 3.9 g, 99% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCN(CC1)CCC(C)C)CC=C(C)C | C28H40N2O
